US09102591B2
(4,4-difluoro-1-(4-methyl-1H-imidazol-1-yl)cyclohexyl)methanamine
Into a round bottom flask was added 4,4-Difluoro-1-(4-methyl-imidazol-1-yl)-cyclohexanecarboxylic acid amide (99 mg, 0.39 mmol) and THF (10 mL, 100 mmol) at room temperature, to the reaction mixture was added lithium tetrahydroaluminate (365 mg, 9.62 mmol). The reaction was refluxed for 6 hours, before being quenched with water (0.4 ml), 2M NaOH (0.4 ml) and water (0.8 ml). The reaction mixture was filtered and cone. The residue was purified by flash column chromatography on silica gel (eluding w a mixture of 5% Et3N/10% MeOH185% AcOEt) to give the title compound (44 mg, 47%). 1H NMR (CDCl3 500 MHz): δppm 7.55 (s, 1H), 6.71 (s, 1H), 2.70 (s, 2H), 2.4-1.7 (m, 8H), 2.21 (s, 3H).

reactant | 4,4-Difluoro-1-(4-methyl-imidazol-1-yl)-cyclohexanecarboxylic acid amide | 0.39 mmol, 99 mg | FC1(CCC(CC1)(C(=O)N)N1C=NC(=C1)C)F | C11H15F2N3O
reactant | THF | 100 mmol, 10 mL | C1CCOC1 | C4H8O
reactant | lithium tetrahydroaluminate | 9.62 mmol, 365 mg | [AlH4-].[Li+]
product | (4,4-difluoro-1-(4-methyl-1H-imidazol-1-yl)cyclohexyl)methanamine | 44 mg, 47% | FC1(CCC(CC1)(N1C=NC(=C1)C)CN)F | C11H17F2N3
